US07919519B2
N-(5-Benzyl-2-hydroxyphenyl)-2-fluoro-4-formylbenzamide
To a mixture of 2-fluoro-4-formylbenzoic acid (0.600 g, 3.57 mmol) in 15 mL DCM was added oxalyl dichloride (0.374 mL, 4.28 mmol) and N,N-dimethylformamide (0.00261 g, 0.0357 mmol) (a few drops). The mixture was allowed to stir for several h, treated with additional (COCl)2 (0.100 mL), stirred further for 1 h, concentrated in vacuo, and the semi-solid was suspended in 15 mL THF. N,N-diisopropylethylamine (0.808 mL, 4.64 mmol) was added followed by 2-amino-4-benzylphenol (0.711 g, 3.57 mmol). After 4 h, the reaction was treated with EtOAc, water, and 1N HCl. The organic layer was washed 1× brine, dried over sodium sulfate, filtered, and concentrated. The material was purified by silica gel chromatography to give title compound as a solid. MS (ESI) m/z: Calculated: 349.1; Observed: 347.7 (M−−1).

reactant | 2-fluoro-4-formylbenzoic acid | 3.57 mmol, 0.600 g | FC1=C(C(=O)O)C=CC(=C1)C=O | C8H5FO3
reactant | oxalyl dichloride | 4.28 mmol, 0.374 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (COCl)2 | 0.100 mL | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | N,N-diisopropylethylamine | 4.64 mmol, 0.808 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-amino-4-benzylphenol | 3.57 mmol, 0.711 g | NC1=C(C=CC(=C1)CC1=CC=CC=C1)O | C13H13NO
reactant | HCl | 1N | Cl | ClH
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 0.0357 mmol, a few drops, 0.00261 g | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(5-Benzyl-2-hydroxyphenyl)-2-fluoro-4-formylbenzamide | C(C1=CC=CC=C1)C=1C=CC(=C(C1)NC(C1=C(C=C(C=C1)C=O)F)=O)O | C21H16FNO3
